US07612114B2
6-{2-{{4-[2-(3-Azabicyclo[3.2.2]non-3-yl)ethoxy]benzyl}isopropylamino}-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-ol
Synthesized from pivalic acid 6-{2-[(4-hydroxybenzoyl)isopropylamino]-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-yl ester (21 mg) and 1-(3-azabicyclo[3.2.2]non-3-yl)-2-chloroethanone (17 mg) according to an analogous synthetic method to Example 404 and purified by LC-MS, the title compound (8.0 mg) was obtained.

reactant | pivalic acid 6-{2-[(4-hydroxybenzoyl)isopropylamino]-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-yl ester | 21 mg | OC1=CC=C(C(=O)N(C2=C(C=CC(=C2)OC)C2CC=3C=CC(=CC3CC2)OC(C(C)(C)C)=O)C(C)C)C=C1 | C32H37NO5
reactant | 1-(3-azabicyclo[3.2.2]non-3-yl)-2-chloroethanone | 17 mg | C12CN(CC(CC1)CC2)C(CCl)=O | C10H16ClNO
product | 6-{2-{{4-[2-(3-Azabicyclo[3.2.2]non-3-yl)ethoxy]benzyl}isopropylamino}-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-ol | 8.0 mg | C12CN(CC(CC1)CC2)CCOC2=CC=C(CN(C1=C(C=CC(=C1)OC)C1CC=3C=CC(=CC3CC1)O)C(C)C)C=C2 | C37H48N2O3
